US07393858B2
(i) 1-Benzyloxycarbonyl-3-azetidinecarboxylic acid
3-Azetidinecarboxylic acid (4.0 g, 39.6 mmol) was dissolved in 1N sodium hydroxide solution (40 mL) and cooled to 0° C. Benzyl chloroformate (5.9 mL, 41 mmol) was added followed by further 1N sodium hydroxide solution (41 mL) dropwise. The mixture was stirred vigorously for 16 hrs then made acidic with 2N hydrochloric acid. This suspension was extracted with dichloromethane (2×100 mL) and the extracts dried over MgSO4. Concentration yielded the title compound (9.3 g, 39.6 mmol, 100%).

reactant | 3-Azetidinecarboxylic acid | 39.6 mmol, 4.0 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | Benzyl chloroformate | 41 mmol, 5.9 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 1N, 40 mL | [OH-].[Na+]
solvent | sodium hydroxide | 1N, 41 mL | [OH-].[Na+]
product | 1-Benzyloxycarbonyl-3-azetidinecarboxylic acid | 39.6 mmol, 9.3 g, 100% | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
